US06468995B1
7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid (283 mg) was suspended in water (100 ml) and 1.25 ml of 1N hydrochloric acid was added thereto. The mixture was stirred at 40° C. for 10 minutes and then lyophilized to afford 7β-[2-(2-aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid dihydrochloride (281.8 mg).

reactant | 7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid | 283 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)O)C1=O)=N/O | C16H15N7O5S3
reactant | hydrochloric acid | 1N, 1.25 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid dihydrochloride | 281.8 mg | Cl.Cl.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)O)C1=O)=NO | InChI=1S/C16H15N7O5S3.2ClH/c17-16-20-7(4-31-16)9(22-28)12(24)21-10-13(25)23-11(15(26)27)8(5-30-14(10)23)29-3-6-1-18-19-2-6;;/h1-2,4,10,14,28H,3,5H2,(H2,17,20)(H,18,19)(H,21,24)(H,26,27);2*1H/t10-,14-;;/m1../s1
